US04348403
In 30 ml of pyridine was dissolved 2.0 g hydrochloride of 2-amino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole, and 1.0 ml of acetic anhydride was added to the solution, followed by stirring at room temperature for 2 hours. Water was added and, the precipitating crystals were recovered by filtration, thus yielding 1.9 g (95.0%) of 2-acetylamino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole. m.p., 239°-240° C.

reactant | hydrochloride | 2.0 g | Cl | ClH
reactant | 2-amino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole | NC=1SC=C(N1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C16H13ClN2OS
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetylamino-4-[4-(4-chlorobenzyloxy)phenyl]thiazole | 1.9 g, 95.0% | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C18H15ClN2O2S
